* Amplificador Bipolar 2 Stages small signal Common Emitter*



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs1         s  in 1K  
R_Ri1         in 0  10k  
C_Ce1		in		0	14p
G_G1        out1	0	in	0	40m
C_Cc1		out1	in	2p
R_Ri2		out1	0	8k
G_G2        out		0	out1	0	40m	
C_Ce2		out1	0	14p
C_Cc2		out		out1	2p
R_Rd        out		0	4k
